US04681952
50 g (0.237 mol) of 1-(4-chlorophenyl)-2,2-dimethyl-3-butanone are dissolved in 500 ml of tetrachloromethane, and 44.5 g (0.25 mol) of N-bromosuccinimide and 0.5 g of azobisisobutyronitrile are added. The reaction mixture is heated to boiling under reflux until solid material no longer sinks to the bottom on switching off the stirrer. After cooling down, the succinimide is filtered off with suction, the solvent is distilled off from the filtrate under waterpump vacuum and the residue is distilled under high vacuum. 56.3 g (82% of theory) of 1-(4-chlorophenyl)-1-bromo-2,2-dimethyl-3-butanone of boiling point 112°-118° C./0.2 mbar are obtained.

reactant | 1-(4-chlorophenyl)-2,2-dimethyl-3-butanone | 0.237 mol, 50 g | ClC1=CC=C(C=C1)CC(C(C)=O)(C)C | C12H15ClO
reactant | N-bromosuccinimide | 0.25 mol, 44.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrachloromethane | 500 ml | ClC(Cl)(Cl)Cl | CCl4
catalyst | azobisisobutyronitrile | 0.5 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 1-(4-chlorophenyl)-1-bromo-2,2-dimethyl-3-butanone | 56.3 g, 82% | ClC1=CC=C(C=C1)C(C(C(C)=O)(C)C)Br | C12H14BrClO
